US04898874
3-(4-Chlorophenyl)-7-methyl-2,1-benzisoxazole
A solution of 49 g (0.2 mole) of (2-amino-3-methylphenyl)(4-chlorophenyl)methanone, 1 liter of glacial acetic acid and 200 ml of 30% hydrogen peroxide was let stand at ambient temperature over the weekend. The mixture was heated on a steam bath for 1 hr and poured into 2.5 liters of ice water. The solid which precipitated was collected by filtration, washed with water, and recrystallized from 2-propanol and then from cyclohexane to yield 16.4 g (34%) of crystals, m.p. 134°-136° C.

reactant | (2-amino-3-methylphenyl)(4-chlorophenyl)methanone | 0.2 mole, 49 g | NC1=C(C=CC=C1C)C(=O)C1=CC=C(C=C1)Cl | C14H12ClNO
reactant | hydrogen peroxide | 200 ml | OO | H2O2
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
product | 3-(4-Chlorophenyl)-7-methyl-2,1-benzisoxazole | 16.4 g, 34% | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2C | C14H10ClNO
